US04634777
Preparation of disodium 2,2'-[(1,3-dioxo-2-phenylmethylene-1,3-propanediyl)diimino]bisbenzoate (Compound 49)
To methanol (2 ml), 2,2'-[(1,3-dioxo-2-phenylmethylene-1,3-propanediyl)diimino]bisbenzoic acid (500 mg) and 1N.NaOH (2.32 ml) were added, and the mixture was stirred at room temperature for 1 hour. Solvent was removed from the reaction mixture, and the residue was treated with acetone and crystallized to give the title compound (478 mg, 87%) in white solid. m.p. 283° C. (dec.)

reactant | 2,2'-[(1,3-dioxo-2-phenylmethylene-1,3-propanediyl)diimino]bisbenzoic acid | 500 mg | O=C(C(C(=O)NC1=C(C(=O)O)C=CC=C1)=CC1=CC=CC=C1)NC1=C(C(=O)O)C=CC=C1 | C24H18N2O6
reactant | NaOH | 2.32 ml | [OH-].[Na+]
solvent | methanol | 2 ml | CO | CH4O
product | disodium 2,2'-[(1,3-dioxo-2-phenylmethylene-1,3-propanediyl)diimino]bisbenzoate | 478 mg, 87% | O=C(C(C(=O)NC1=C(C(=O)[O-])C=CC=C1)=CC1=CC=CC=C1)NC1=C(C(=O)[O-])C=CC=C1.[Na+].[Na+] | InChI=1S/C24H18N2O6.2Na/c27-21(25-19-12-6-4-10-16(19)23(29)30)18(14-15-8-2-1-3-9-15)22(28)26-20-13-7-5-11-17(20)24(31)32;;/h1-14H,(H,25,27)(H,26,28)(H,29,30)(H,31,32);;/q;2*+1/p-2
